US04692448
First, 2-chlorobromoethane (48 g) is added to a solution of 2-methylbenzylpiperazine (12 g) and triethylamine (32 g). The resulting mixture is refluxed for 30 minutes; water is then added and the product is extracted with ether, dried (magnesium sulfate) and concentrated in vacuo to give an oil, which is purified on a silica gel column (methylene chloride: methanol, 9:1). The resulting oil is dissolved in ether and the salt precipitated with ethereal hydrochloric acid to give 9.2 g of 1-(2-chloroethyl)-4-(2-methylbenzyl)piperazine dihydrochloride as colorless crystals.

reactant | 2-chlorobromoethane | 48 g | ClCCBr | C2H4BrCl
reactant | 2-methylbenzylpiperazine | 12 g | CC1=C(CN2CCNCC2)C=CC=C1 | C12H18N2
reactant | triethylamine | 32 g | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | 1-(2-chloroethyl)-4-(2-methylbenzyl)piperazine dihydrochloride | 9.2 g | Cl.Cl.ClCCN1CCN(CC1)CC1=C(C=CC=C1)C | InChI=1S/C14H21ClN2.2ClH/c1-13-4-2-3-5-14(13)12-17-10-8-16(7-6-15)9-11-17;;/h2-5H,6-12H2,1H3;2*1H
